US06358971B1
2-Amino-3-phenyl-6-(N-methyl-N-methoxycarbamoyl)imidazo[1,2-a]pyridine
The 2-amino-3-phenyl-6-(carboxy)imidazo-[1,2-a]-pyridine (80.4 g, 0.317 mol) and N,O-dimethylhydroxylamine hydrochloride (92.8 g, 0.951 mol) were dissolved in 500 ml DMF under N2. The diisopropylethylamine (123 g, 0.951 mol) was added and the mixture stirred for 30 minutes at RT. The 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (122 g, 0.634 mol) was added and allowed to stir for 19 hours at RT. The DMF was removed in vacuo and the residue was poured onto 4 L of H2O. The aqueous layer was extracted with CH2Cl2 (3×500 ml) and the organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was taken up in 400 ml of EtOAc and stirred for 1 hour at RT to form the precipitate. The precipitate was filtered and washed with cold EtOAc. The filter cake was dried in vacuo at 40° C. to yield 55.5 g of product. (59.2%). MS(FD), NMR.

reactant | 2-amino-3-phenyl-6-(carboxy)imidazo-[1,2-a]-pyridine | 0.317 mol, 80.4 g | NC=1N=C2N(C=C(C=C2)C(=O)O)C1C1=CC=CC=C1 | C14H11N3O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.951 mol, 92.8 g | Cl.CNOC
reactant | diisopropylethylamine | 0.951 mol, 123 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.634 mol, 122 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-Amino-3-phenyl-6-(N-methyl-N-methoxycarbamoyl)imidazo[1,2-a]pyridine | 55.5 g | NC=1N=C2N(C=C(C=C2)C(N(OC)C)=O)C1C1=CC=CC=C1 | C16H16N4O2
